US04427590
A solution of 8 g of 2-(methylthio)-5-phenyl-7-chloro-3H-1,4-benzodiazepine and 3.68 g of 2-fluoroacetic acid hydrazide [cp. M. A. Phillips, Agr.Vet.Chem. 2, 86-87 (1961), C. A. 57, 12314 (1962)] in 80 ml of hexamethylphosphoric acid triamide is heated for 8 hours at 140° The solvent is then distilled off in vacuo, and the residue distributed between methylene chloride and water. The organic phase is separated, washed with saturated aqueous sodium chloride solution, dried over magnesium sulphate, and concentrated by evaporation. The residue is recrystallized from ethyl acetate/petroleum ether to obtain 1-(fluoromethyl)-6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine, M.P. 153°-154°.

reactant | 2-(methylthio)-5-phenyl-7-chloro-3H-1,4-benzodiazepine | 8 g | CSC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)Cl | C16H13ClN2S
reactant | 2-fluoroacetic acid hydrazide | 3.68 g | FCC(=O)NN | C2H5FN2O
solvent | hexamethylphosphoric acid triamide | 80 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 1-(fluoromethyl)-6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FCC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl | C17H12ClFN4
